US06399629B1
(B) 4-Benzylthioaniline
Tin (II) chloride dihydrate (444 mg) was added to a stirred solution of benzyl 4-nitrophenyl sulfide (A, 704 mg) in ethanol (20 mL). The mixture was stirred at 70° C. for 2 hr under nitrogen, allowed to cool down and then poured into ice. The pH was made slightly basic (pH 7-8). The mixture was diluted with ethyl acetate and washed with saturated sodium hydrogen carbonate and brine. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound (565 mg) as a brown oil: 1H NMR (400 MHz, CDCl3) δ 3.59 (br s, 2H), 3.93 (s, 2H), 6.54-6.57 (m, 2H), and 7.11-7.26 (m, 7H).

reactant | Tin (II) chloride dihydrate | 444 mg | O.O.[Sn](Cl)Cl
reactant | benzyl 4-nitrophenyl sulfide | [N+](=O)([O-])C1=CC=C(C=C1)SCC1=CC=CC=C1 | C13H11NO2S
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Benzylthioaniline | 565 mg | C(C1=CC=CC=C1)SC1=CC=C(N)C=C1 | C13H13NS
